US05506266
Hexanoylchloride (g, 0.1 mole) is added dropwise with stirring and ice-cooling to a mixture of sodium carbonate (10.6 g, 0.1 mole) and N-methylhydroxylamine hydrochloride (8.35 g, 0.1 mole) in methanol (60 ml), the temperature being kept at less than 5° C. After stirring for a further 30 minutes the mixture is filtered and the solvent is removed using a rotary evaporator. The resultant residue is re-filtered and the residue distilled in vacuo to yield N-methyl-hexanohydroxamic acid as an oil, b.p. 87°-90°/0.1 mm.

reactant | Hexanoylchloride | 0.1 mole | C(CCCCC)(=O)Cl | C6H11ClO
reactant | sodium carbonate | 0.1 mole, 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-methylhydroxylamine hydrochloride | 0.1 mole, 8.35 g | Cl.CNO
solvent | methanol | 60 ml | CO | CH4O
product | N-methyl-hexanohydroxamic acid | CN(O)C(CCCCC)=O | C7H15NO2
